US07498325B2
a) 1-[4-amino-3,5-dibromo-D-phenylalanyl]-4-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-piperidine
A mixture of 5.60 g (0.01 mol) of 4-amino-3,5-dibromo-N -(9-fluorenylmethoxycarbonyl)-D-phenylalanine, 1.35 g (0.01 mol) HOBt, 3.21 g (0.01 mol) TBTU, 1.29 g (0.01 mol) DIEA, 2.68 g (0.01 mol) 4-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-piperidine and 150 ml of tetrahydrofuran was stirred for 2 hours at room temperature. After the reaction was complete 20 ml of diethylamine were added and the mixture was stirred for a further 18 hours at room temperature. The reaction mixture was evaporated down in vacuo, the residue was taken up in 200 ml of dichloromethane and washed successively with 100 ml of saturated sodium chloride solution and saturated sodium hydrogen carbonate solution and dried over magnesium sulphate. The reddish oil remaining after elimination of the solvent was purified by column chromatography on silica gel (30-60 μm) using firstly dichloromethane, then FM4 as eluant. The title compound was obtained in the form of a colourless amorphous substance and in a yield of 4.31 g (73.3% of theory).

reactant | 4-amino-3,5-dibromo-N -(9-fluorenylmethoxycarbonyl)-D-phenylalanine | 0.01 mol, 5.60 g | NC1=C(C=C(C[C@@H](NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C(=O)O)C=C1Br)Br | C24H20Br2N2O4
reactant | HOBt | 0.01 mol, 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 0.01 mol, 3.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 0.01 mol, 1.29 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-piperidine | 0.01 mol, 2.68 g | CC(C)(OC(=O)N1CCC(CC1)C1CCNCC1)C | C15H28N2O2
reactant | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-[4-amino-3,5-dibromo-D-phenylalanyl]-4-[1-(1,1-dimethylethoxycarbonyl)-4-piperidinyl]-piperidine | NC1=C(C=C(C[C@@H](N)C(=O)N2CCC(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1Br)Br | C24H36Br2N4O3
